US08232289B2
Preparation 16: 2-(2-Bromo-3-pyridyl)propan-2-ol
Lithium diisopropylamide (2M, 12.5 mL, 25 mmol) is dissolved in tetrahydrofuran (40 mL) and cooled to −78° C. 2-Bromopyridine (3.9 g, 25 mmol) is added dropwise and the reaction is stirred for 3 hr. before adding acetone (1 mL, dried over freshly activated molecular sieves) and allowing warming to room temperature. The reaction is quenched with saturated ammonium chloride and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate and evaporated. The residue is purified by flash column chromatography on silica, eluting with 20% hexane/tert-butyl methyl ether to give the title compound (1.4 g, 26%). 1H-NMR (d6-dimethyl sulfoxide): 8.23 (dd, J=1.9, 4.5 Hz, 1H), 8.19 (dd, J=2.0, 7.8 Hz, 1H), 7.44 (dd, J=4.5, 7.7 Hz, 1H), 5.43 (s, 1H), 2.12 (s, 1H), 1.46 (s, 6H).

reactant | Lithium diisopropylamide | 25 mmol, 2M, 12.5 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-Bromopyridine | 25 mmol, 3.9 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | acetone | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(2-Bromo-3-pyridyl)propan-2-ol | 1.4 g, 26% | BrC1=NC=CC=C1C(C)(C)O | C8H10BrNO
